US07566699B2
3-[2-(4-Acetylaminophenyl)ethyl]-4-hydroxybenzofuran
To a mixture of 6′-hydroxy-2′-(methoxycarbonylmethoxy)acetophenone (2.24 g) and 4-acetylaminobenzaldehyde (2.45 g) in ethanol (30 mL) were added water (10 mL) and potassium hydroxide (6.73 g), and the mixture was stirred at room temperature overnight. To the reaction mixture was added 2 mol/L hydrochloric acid (70 mL), and the precipitated crystals were collected by filtration. The crystals were washed with water and dried under reduced pressure to give 4-acetylamino-2′-(carboxymethoxy)-6′-hydroxychalcone (3.35 g). A mixture of the obtained 4-acetylamino-2′-(carboxymethoxy)-6′-hydroxychalcone (3.3 g) and 10% palladium-carbon powder (1 g) in methanol (50 mL) was stirred at room temperature under a hydrogen atmosphere overnight. The insoluble material was removed by filtration. The solvent of the filtrate was removed under reduced pressure, and the residue was dissolved in acetic acid (13.2 mL). To the solution were added sodium acetate (4.77 g) and acetic anhydride (4.8 mL), and the mixture was stirred at 115° C. for 20 hours. The reaction mixture was poured in to water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in methanol (10 mL). To the solution was added sodium methoxide (28% methanol solution, 5 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure. To the residue were added 1 mol/L hydrochloric acid (30 mL) and ethyl acetate, and the mixture was stirred for 1 hour. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was treated with dichloromethane-methanol. The precipitated crystals were collected by filtration. The crystals were washed with dichloromethane and dried under reduced pressure to give the title compound (0.86 g).

reactant | 4-acetylamino-2′-(carboxymethoxy)-6′-hydroxychalcone | 3.3 g | C(C)(=O)NC1=CC=C(C=C1)C=CC(=O)C1=C(C=CC=C1O)OCC(=O)O | C19H17NO6
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium-carbon | 1 g | [C].[Pd]
product | 3-[2-(4-Acetylaminophenyl)ethyl]-4-hydroxybenzofuran | 0.86 g | C(C)(=O)NC1=CC=C(C=C1)CCC1=COC2=C1C(=CC=C2)O | C18H17NO3
